US09334290B2
A solution of 3-bromo-4-methylaniline (5.00 g, 26.9 mmol), N-iodosuccinimide (4.53 g, 20.2 mmol) and bis(pyridine)iodonium tetrafluoroborate (2.70 g, 7.26 mmol) in DCM (100 mL) was stirred at room temperature overnight. The mixture was diluted with DCM, washed sequentially with saturated aqueous NaHSO3 and water, and dried and concentrated. The residue was purified by column chromatography on silica gel, eluting with EtOAc-hexanes (sequentially 1%, 2% and 3%), to provide 5-bromo-2-iodo-4-methylaniline as a yellow solid (5.27 g, 63% yield). Mass spectrum m/z 312, 314 (M+H)+. 1H NMR (500 MHz, CDCl3) δ 7.49 (d, J=0.6 Hz, 1H), 6.94 (s, 1H), 4.17-3.91 (br.s, 2H), and 2.25 (s, 3H).

reactant | 3-bromo-4-methylaniline | 26.9 mmol, 5.00 g | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | N-iodosuccinimide | 20.2 mmol, 4.53 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | bis(pyridine)iodonium tetrafluoroborate | 7.26 mmol, 2.70 g | [B-](F)(F)(F)F.C1=CC=NC=C1.C1=CC=NC=C1.[IH2+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-iodo-4-methylaniline | 5.27 g, 63% yield | BrC=1C(=CC(=C(N)C1)I)C | C7H7BrIN
